### PR TITLE
Abel-Galois for any characteristic

### PR DESCRIPTION
**Pull request by Tragicus**
Generalizes the definition of radical extension and the Abel-Galois theorem to fields of any characteristic.

### CODE REVIEW

**Comment by Tragicus** [comment]
Lines 714-811 contain the roots-coefficients relations for a polynomial. Should it go to mathcomp or should I put it in the xmathcomp directory (or have I just not seen it in the library)?

Should I try to go further, hopefully replacing the 0 characteristic hypothesis by some separability hypothesis?

File: theories/abel.v [hunk 1]
```diff
@@ -115,6 +124,30 @@ Section Properties.
 Implicit Types r : {vspace L} -> L -> nat -> bool.
 Implicit Types (U V : {subfield L}).
 
+(* TODO: rename and move to the proper place *)
+Lemma primitive_unity_root_char (w : L) (n : nat) :
+  n.-primitive_root w -> n%:R != (0 : F0).
```
Comment (CohenCyril) [inline theories/abel.v:129]: This was here: https://github.com/math-comp/Abel/blob/94499667cc4464f7748a2fd909e628a8f86a998e/theories/xmathcomp/various.v#L265
And it's being ported to mathcomp in this PR: https://github.com/math-comp/math-comp/pull/944/files#diff-2d6a4ea70d7630c940ac8075abbc6ff46d30c54f80c29291131b711b195368e6R1839

**Comment by CohenCyril** [comment]
> Lines 714-811 contain the roots-coefficients relations for a polynomial. Should it go to mathcomp or should I put it in the xmathcomp directory (or have I just not seen it in the library)?

Both! (To my knowledge it's been done only for [multivariate polynomials](https://github.com/math-comp/multinomials/blob/ce1bdcf59dbdf7d7ac49637d4ab2df94e12ed4e2/src/mpoly.v#L4538-L4540))

> Should I try to go further, hopefully replacing the 0 characteristic hypothesis by some separability hypothesis?

**Comment by Tragicus** [comment]
In fact, what I did is not complete. I proved that any extension that is solvable by radical is solvable in any characteristic, but not the converse, so AbelGalois still requires a root of unity, which makes my generalization pretty useless. When I try to prove the missing part following Lang's Algebra book, I need to prove that the galois trace is not 0, which relies on the independance of characters, whose proof takes two different characters and chooses a point where they differ. This is supposed to be applied to members of a galois group, whose domains are infinite, which makes this step non-constructive. Is there a constructive proof of this theorem, or else what should I do, I guess we do not want to rely on boolp from mathcomp-analysis ?

**Comment by Tragicus** [comment]
I managed to do it using (essentially) the decidability of equality between elements of the galois group. I have quite a few auxiliary lemmas, that I have temporarily put in theories/xmathcomp/temp.v for review (in particular in case I missed some relevant part of the library). The generalization of the AbelGalois theorem is now complete (and I believe optimal given the model of field extension that we use).

File: theories/xmathcomp/temp.v [hunk 2]
```diff
@@ -0,0 +1,374 @@
...
+Qed.
+
+
+Definition Zp_succ n (i : 'I_n) := Ordinal (
+  match n with
+  | 0 => fun i0 : 'I_0 => match i0 with | @Ordinal _ _ i0 => i0 end
+  | n0.+1 => fun i0 => (ltn_pmod i0.+1 (is_true_true : (is_true (0 < n0.+1)%N)))
+  end i).
+
+Lemma cycle_imset [gT : finGroupType] (g : gT) : <[g]>%g = @Imset.imset (ordinal_finType #[g]%g) (FinGroup.finType gT) (fun i => (g ^+ (val i))%g) (mem setT).
```
Comment (CohenCyril) [inline theories/xmathcomp/temp.v:167]:
```suggestion
Lemma cycle_imset [gT : finGroupType] (g : gT) : <[g]>%g = [set g ^+ (val i) | i : 'I_#[g]%g]
```
I'm surprised not to see this result in the library indeed ... I will investigate...

File: theories/xmathcomp/temp.v [hunk 3]
```diff
@@ -0,0 +1,374 @@
...
+Proof. by apply congr_big => // i; rewrite andbT. Qed.
+
+Lemma big_setT [R : Type] [idx : R] (op : Monoid.com_law idx) 
+    [I : finType] (F : I -> R) :
+    \big[op/idx]_(i in [set: I]) F i = \big[op/idx]_i F i.
+Proof. by apply congr_big => // i; rewrite in_setT. Qed.
+
+Lemma Hilbert's_theorem_90_additive
+  [F : fieldType] [L : splittingFieldType F] 
+    [K E : {subfield L}] [x : gal_finGroupType E]
```
Comment (CohenCyril) [inline theories/xmathcomp/temp.v:195]:
```suggestion
    [K E : {subfield L}] [x : gal E] 
```

File: theories/xmathcomp/temp.v [hunk 4]
```diff
@@ -0,0 +1,374 @@
...
+     apply (leq_trans pm (vp_leq p pprim)).
+rewrite big_filter [in X in (_ * X)%N]big_mkcond/= -big_split/= 2!big_seq.
+apply eq_bigr => p; rewrite mem_primes => /andP[pprim _].
+have ->: ((if p \in primes m then p ^ logn p m else 1) = p ^ logn p m)%N.
+   case/boolP: (p \in primes m) => //.
+   by rewrite -logn_gt0 lt0n negbK => /eqP ->; rewrite expn0.
+by rewrite -expnD subnK// vp_leq.
+Qed.
+
+Lemma muln_gt0 [I : Type] (r : seq I) (P : pred I) (F : I -> nat) (p : nat) :
```
Comment (CohenCyril) [inline theories/xmathcomp/temp.v:323]: I believe this is `prodn_gt0`

**Review by CohenCyril — CHANGES_REQUESTED** [review]
Indeed, we should discuss a few results and in particular if they can be rephrased to better reuse the contents of the library ?
Also the statements should reuse maximally predefined notations and definitions and if it does not look "close enough" to what one writes on paper, it means it requires some thinking to make it more beautiful (despite ASCII-style notations).

File: theories/xmathcomp/temp.v [hunk 5]
```diff
@@ -0,0 +1,374 @@
...
+
+Lemma agenv_span (K : fieldType) (L : fieldExtType K) (U : {subfield L}) (X : seq L) : <<X>>%VS = U -> <<1%VS & X>>%VS = U.
+Proof.
+move=>->. 
+suff ->: (1+U)%VS = U by rewrite subfield_closed.
+rewrite -{2}(subfield_closed U) (agenvEr U) subfield_closed.
+by congr (1 + _)%VS; apply/esym/field_module_eq; rewrite sup_field_module.
+Qed.
+
+Lemma gal_ne (F0 : fieldType) (L : splittingFieldType F0) (E : {subfield L}) (f g : FinGroup.finType (gal_finGroupType E)) : f = g \/ exists x, x \in E /\ f x != g x.
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply theories/xmathcomp/temp.v:70]: I would expect so, but I spent too much time trying to find it.

File: theories/xmathcomp/temp.v [hunk 6]
```diff
@@ -0,0 +1,374 @@
...
+rewrite -{1}LE; apply ahom_eq_adjoin_seq=>//.
+move:(gal1 f)(gal1 g).
+rewrite gal_kHom ?sub1v// gal_kHom ?sub1v// => /andP [_ /subvP f1] /andP [_ /subvP g1].
+by move=>x /[dup] /f1/fixedSpaceP -> /g1/fixedSpaceP ->.
+Qed.
+
+Lemma tnth_cons (T : Type) (x : T) (l : seq T) (i : 'I_(size l)): tnth (in_tuple (x :: l)) (lift ord0 i) = tnth (in_tuple l) i.
+Proof. by rewrite/tnth/=; apply set_nth_default. Qed.
+
+Lemma gal_free (F0 : fieldType) (L : splittingFieldType F0) (E : {subfield L}) (f : seq (FinGroup.finType (gal_finGroupType E))) (k : 'I_(size f) -> L) : uniq f -> (forall i, k i = 0) \/ (exists a, a \in E /\ \sum_(i < size f) k i * tnth (in_tuple f) i a != 0).
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply theories/xmathcomp/temp.v:85]: free does not give a witness in the case where the coefficients are not all 0. I guess the lemma you mentioned above would make the difference meaningless.

File: theories/xmathcomp/temp.v [hunk 7]
```diff
@@ -0,0 +1,374 @@
...
+Qed.
+
+Lemma ffun_sum [T : finType] [R : ringType] [E : vectType R]
+  (f : seq (ffun_vectType T E)) (x : T) :
+  (\sum_(i <- f) i) x = \sum_(i <- f) i x.
+Proof.
+elim: f; first by rewrite 2!big_nil ffunE.
+move=> a f IHf.
+by rewrite 2!big_cons ffunE IHf.
+Qed.
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply theories/xmathcomp/temp.v:158]: The morphism in question would be the application on a given point, which does not seem to be declared. It is more than I need, but unless I miss something again, I can do it.

File: theories/xmathcomp/temp.v [hunk 8]
```diff
@@ -0,0 +1,374 @@
...
+
+
+Definition Zp_succ n (i : 'I_n) := Ordinal (
+  match n with
+  | 0 => fun i0 : 'I_0 => match i0 with | @Ordinal _ _ i0 => i0 end
+  | n0.+1 => fun i0 => (ltn_pmod i0.+1 (is_true_true : (is_true (0 < n0.+1)%N)))
```
[the remark this answers is not in the document]
Comment (Tragicus) [reply theories/xmathcomp/temp.v:164]: That would make sense, but I want `val (Zp_succ i)` to reduce to `i.+1 %% n` without having to destruct n (which is the issue I have with all the `Zp_*` definitions in the library). That being said, I think I do not need this definition anymore, we can discuss whether we want to keep it as an independently interesting object.

File: theories/xmathcomp/temp.v (hunk 2 above)
Comment (Tragicus) [reply theories/xmathcomp/temp.v:167]: This change breaks lemma `Hilbert's_theorem_90_additive` when I rewrite `big_imset_cond`. I wanted to write it this way at first, but I have been fighting for so long that I ended up copy-pasting what the lemma wants.

File: theories/xmathcomp/temp.v (hunk 4 above)
Comment (Tragicus) [reply theories/xmathcomp/temp.v:323]: I need the predicate when I want to prove that every `F n` is greater than 0, which `prodn_gt0` does not allow me to do. That being said, it should be named `prodn_gt0`.

Comment (CohenCyril) [reply theories/xmathcomp/temp.v]: It's because it's supposed to be chained with `big_seq_cond`

**Comment by Tragicus** [comment]
@CohenCyril I did most of what we discussed, but not right away due to other obligations. Hopefully I did not forget anything. I have issues with generalizing cycle_imset, I added a comment.

**Comment by CohenCyril** [comment]
@Tragicus I performed some refactorings and simplifications. Tell me what you think.

**Comment by Tragicus** [comment]
@CohenCyril Thank you, I moved the results in temp to their (hopefully) right location in various.v, I also had to move some of the results in map_gal.v there because of dependency issues in the galois section. There are a few things left in temp.v that need to be discussed about. In particular, I think we can simply remove big_condT and Zp_succ.

File: theories/xmathcomp/temp.v [hunk 9]
```diff
@@ -0,0 +1,38 @@
...
+
+(* J'ai l'impression que je veux garder la quantification sur $r$ dans la première hypothèse. Je laisse ma version dans various.v le temps qu'on en discute. *)
+Lemma logn_prod [I : Type] (r : seq I) (P : pred I) (F : I -> nat) (p : nat) :
+  (forall n,  P n -> (0 < F n)%N) ->
+  (logn p (\prod_(n <- r | P n) F n) = \sum_(n <- r | P n) logn p (F n))%N.
+Proof.
+move=> F_gt0; elim/(big_load (fun n => (n > 0)%N)): _.
+elim/big_rec2: _; first by rewrite logn1.
+by move=> i m n Pi [n_gt0 <-]; rewrite muln_gt0 lognM ?F_gt0.
+Qed.
```
Comment (CohenCyril) [inline theories/xmathcomp/temp.v:36]: As usual with bigop lemmas, the lemma is more general when not "relativised" to the sequence. Indeed `{in r, ...}` forces `I` to be an `eqType` whereas the current phrasing does not.
Moreover, it is seldom the case that we need to know `i` is in `r` in real situtations, mostly because most sums are performed over a finite type, in which case `r` is the enumeration of all elements of the finite type, making the assumption `i \in r` spurious.

That being said, in the (very) rare case where we need to know `i \in r` to prove the side condition, one may use `big_seq_cond` to load the condition in the predicate part of the bigop. As an example, here is how to prove your version from this one:
```coq
Lemma logn_prod_seq [I : eqType] (r : seq I) (P : pred I) (F : I -> nat) (p : nat) :
  {in r, forall n,  P n -> (0 < F n)%N} ->
  (logn p (\prod_(n <- r | P n) F n) = \sum_(n <- r | P n) logn p (F n))%N.
Proof.
by move=> F0; rewrite big_seq_cond logn_prod -?big_seq_cond// => i /andP[/F0].
Qed.
```

Comment (CohenCyril) [reply theories/xmathcomp/temp.v:36]: I tried to summarize this here:
https://github.com/math-comp/math-comp/wiki/FAQ#bigops
please tell me if this is clear.

Comment (Tragicus) [reply theories/xmathcomp/temp.v:36]: Indeed. This is actually an excellent reason for the 3-argument form of bigop (which I think you can mention in the FAQ). The paragraph on "\big_(i <- r | P i) F i" is clear and helpful. Concerning "\big_(i in A | P i) F i", is that not syntactic sugar for "\big_(i | (i \in A) && P i) F i", in which case the lemmas for the previous form of bigop would apply ?
I updated logn_prod_seq in various.v. I will push when we decide what we do with big_condT and Zp_succ. Also, is there something we should do about the checks that keep failing?

Comment (CohenCyril) [reply theories/xmathcomp/temp.v:36]: > Concerning "\big_(i in A | P i) F i", is that not syntactic sugar for "\big_(i | (i \in A) && P i) F i", in which case the lemmas for the previous form of bigop would apply ?

yes indeed, the lemmas of the form `\big_(i <- r | P i) F i` will apply, but my point in this paragraph, is the other way around: lemmas of the form `big_(i in A | P i) F i` do not apply to goals of the form `\big_(i <- r | P i) F i`. That was not clear?

Comment (CohenCyril) [reply theories/xmathcomp/temp.v:36]: > I updated logn_prod_seq in various.v. I will push when we decide what we do with big_condT and Zp_succ.

I'd be fine if you did two PR to mathcomp
- for `big_condT` it can be useful even though `big_mkcondr` subsumes it in a trivial way for coq but nontrivial for humans,
- for `Zp_succ`, I realized I actually defined pred rather than succ :laughing:.
  I prefer this definition though:
  ```coq
  Definition Zp_succ_subproof n (i : 'I_n) : i.+1 %% n < n.
  Proof. by case: n i => [|n] [m m_lt]//=; rewrite ltn_pmod. Qed.
  Definition Zp_succ n (i : 'I_n) := Ordinal (Zp_succ_subproof i).
  ```
  it is very similar to your definition except it separates the computational part from the proof part and opacifies the latter, and it does not start with a match at all.

Comment (CohenCyril) [reply theories/xmathcomp/temp.v:36]: > Also, is there something we should do about the checks that keep failing?

I will update the CI and we'll see

Comment (Tragicus) [reply theories/xmathcomp/temp.v:36]: > > Concerning "\big_(i in A | P i) F i", is that not syntactic sugar for "\big_(i | (i \in A) && P i) F i", in which case the lemmas for the previous form of bigop would apply ?
> 
> yes indeed, the lemmas of the form `\big_(i <- r | P i) F i` will apply, but my point in this paragraph, is the other way around: lemmas of the form `big_(i in A | P i) F i` do not apply to goals of the form `\big_(i <- r | P i) F i`. That was not clear?

Maybe the title of the section mislead me, I read it as "what should I do when I see a "\big_(i in A | P i) F i"" and not "how to apply lemmas containing a "\big_(i in A | P i) F i"". It might be worth it to mention that the notation is syntactic sugar for the previous one, I can easily see people getting confused (as I have got myself for some time) about it.

Comment (Tragicus) [reply theories/xmathcomp/temp.v:36]: > > I updated logn_prod_seq in various.v. I will push when we decide what we do with big_condT and Zp_succ.
> 
> I'd be fine if you did two PR to mathcomp
> 
>     * for `big_condT` it can be useful even though `big_mkcondr` subsumes it in a trivial way for coq but nontrivial for humans,
> 
>     * for `Zp_succ`, I realized I actually defined pred rather than succ laughing.
>       I prefer this definition though:
>       ```coq
>       Fact Zp_succ_subproof n (i : 'I_n) : i.+1 %% n < n.
>       Proof. by case: n i => [|n] [m m_lt]//=; rewrite ltn_pmod. Qed.
>       Definition Zp_succ n (i : 'I_n) := Ordinal (Zp_succ_subproof i).
>       ```
>       
>       
>           
>             
>           
>       
>             
>           
>       
>           
>         
>       it is very similar to your definition except it separates the computational part from the proof part and opacifies the latter, and it does not start with a match at all.

Yes, this match on i is a mistake. I will do the PR. While I am at it, is there something else I should port to mathcomp (in particular the results in various.v)?

**Comment by CohenCyril** [comment]
@Tragicus FYI I'm porting this to mathcomp 2, then I'll squash and merge.
